### PR TITLE
[Merged by Bors] - feat(PowerSeries): rename a power series as multivariate power series

### PR DESCRIPTION
**Pull request by WenrongZou**
---
In this PR, I define the `PowerSeries.toMvPowerSeries` which use `Polynomial.toMvPolynomial` as reference. Also there is some missing APIs in `MvPowerSeries/Equiv.lean` with respect to `MvPolynomial/Equiv.lean`. I will try to add them in next several PRs. 

- [x] depends on: #37576 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 1]
```diff
@@ -157,3 +159,77 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+/-- Given a power series p(X) ∈ R⟦X⟧ and an index i, we may view it as a
+multivariate power series p(X_i) ∈ R⟦X_1, ..., X_n⟧.
+-/
+noncomputable
+def toMvPowerSeries : PowerSeries R →ₐ[R] MvPowerSeries σ R :=
+  MvPowerSeries.rename (fun _ => i)
+
+theorem toMvPowerSeries_apply : f.toMvPowerSeries i = f.rename (fun _ => i) := rfl
+
+theorem toMvPowerSeries_C : (C r).toMvPowerSeries i = MvPowerSeries.C r := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean:179]: This should probably be `simp`.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 2]
```diff
@@ -157,3 +159,77 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+  have : C r = MvPowerSeries.C r := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Can you add this lemma in the appropriate place?

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 3]
```diff
@@ -157,3 +159,77 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+  rw [toMvPowerSeries_apply, this, MvPowerSeries.rename_C]
+
+theorem toMvPowerSeries_X : X.toMvPowerSeries i = MvPowerSeries.X i (R := R) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean:183]: Also `simp`.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 4]
```diff
@@ -157,3 +159,77 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+theorem toMvPowerSeries_eq_subst : f.toMvPowerSeries i = f.subst (MvPowerSeries.X i) := by
+  rw [toMvPowerSeries_apply, MvPowerSeries.rename_eq_subst, comp_def, subst]
+
+theorem _root_.MvPowerSeries.HasSubst.toMvPowerSeries (hf : f.constantCoeff = 0) :
+    MvPowerSeries.HasSubst (f.toMvPowerSeries · (σ := σ)) (S := R) where
+  const_coeff := by simp_all [constantCoeff, toMvPowerSeries_apply]
+  coeff_zero d := Set.Finite.subset (Finite.of_fintype d.support) fun s => by classical
+    contrapose
+    simp only [SetLike.mem_coe, mem_support_iff, Decidable.not_not, Set.mem_setOf_eq]
+    have : (.subst (.X (R := R) ∘ fun x ↦ s) f) = f.subst (.X s) := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Can you extract this lemma?

Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Thanks for your suggestion. I add a lemma.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 5]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+
+section toMvPowerSeries
+
+variable {R S σ τ : Type*} [CommSemiring R] [CommSemiring S] {f : PowerSeries R} (i : σ) (r : R)
+
+open Function PowerSeries Filter Finsupp
+namespace PowerSeries
+
+/-- Given a power series p(X) ∈ R⟦X⟧ and an index i, we may view it as a
+multivariate power series p(X_i) ∈ R⟦X_1, ..., X_n⟧.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]:
```suggestion
/-- Given a power series `p : R⟦X⟧` and an index `i`, we may view it as a
multivariate power series `toMvPowerSeries i p : MvPowerSeries σ R`.
```
Please check that I got the order of the variables right.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 6]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+-/
+noncomputable
+def toMvPowerSeries : PowerSeries R →ₐ[R] MvPowerSeries σ R :=
+  MvPowerSeries.rename (fun _ => i)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]:
```suggestion
  MvPowerSeries.rename (fun _ ↦ i)
```

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 7]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+
+theorem toMvPowerSeries_apply : f.toMvPowerSeries i = f.rename (fun _ => i) := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]:
```suggestion
theorem toMvPowerSeries_apply : f.toMvPowerSeries i = f.rename (fun _ ↦ i) := rfl
```

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 8]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+
+@[simp]
+theorem toMvPowerSeries_C : (C r).toMvPowerSeries i = MvPowerSeries.C r := by
+  rw [toMvPowerSeries_apply, C, MvPowerSeries.rename_C]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Instead of rewriting `C` please add a lemma `C_def` or something similar (the point is that at some point the definition may become sealed).

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 9]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+
+@[simp]
+theorem toMvPowerSeries_X : X.toMvPowerSeries i = MvPowerSeries.X i (R := R) := by
+  rw [toMvPowerSeries_apply, X, MvPowerSeries.rename_X]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Same, there should be a `rfl` lemma about `X`.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 10]
```diff
@@ -157,3 +159,80 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+
+theorem toMvPowerSeries_injective (i : σ) : Function.Injective (toMvPowerSeries (R := R) i) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean:186]: Please follow https://leanprover-community.github.io/contribute/naming.html#injectivity for naming and the `inj` version.

Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean:186]: Thanks! I followed the name the same as [`Polynomial.toMvPolynomial_injective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Equiv.html#Polynomial.toMvPolynomial_injective). I will create a new PR to rename the name there.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean (hunk 8 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: I think this should be called `C_apply`?

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Feel free to chose the name, I honestly even forgot what is saying exactly.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean (hunk 10 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean:186]: I also add a tag `@[grind inj]`.

Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean:186]: This PR [#39931](https://github.com/leanprover-community/mathlib4/pull/39931) changes `Polynomial.toMvPolynomial_injective` to `Polynomial.toMvPolynomial_inj`.

Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Equiv.lean:186]: I add a variant `_inj`.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 11]
```diff
@@ -157,3 +159,83 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+section CommRing
+
+variable {R : Type*} [CommRing R] {f : R⟦X⟧} {i : σ}
+
+theorem toMvPowerSeries_eq_subst : f.toMvPowerSeries i = f.subst (MvPowerSeries.X i) := by
+  rw [toMvPowerSeries_apply, MvPowerSeries.rename_eq_subst, comp_def, subst]
+
+lemma toMvPowerSeries_coeff_eq_zero {d : σ →₀ ℕ} (hd : d i = 0) (hf : f.constantCoeff = 0) :
+    ((PowerSeries.toMvPowerSeries i) f).coeff d = 0 := by classical
+  have : (.subst (.X (R := R) ∘ fun x ↦ i) f) = f.subst (.X i) := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: I think this also deserves its own lemma.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 12]
```diff
@@ -157,3 +159,83 @@ lemma toAdicCompletionAlgEquiv_symm_apply
...
+  simp_all
+
+theorem _root_.MvPowerSeries.HasSubst.toMvPowerSeries (hf : f.constantCoeff = 0) :
+    MvPowerSeries.HasSubst (f.toMvPowerSeries · (σ := σ)) (S := R) where
+  const_coeff := by simp_all [constantCoeff, toMvPowerSeries_apply]
+  coeff_zero d := Set.Finite.subset (Finite.of_fintype d.support) fun s => by
+    contrapose
+    simpa using fun hd ↦ toMvPowerSeries_coeff_eq_zero hd hf
+
+theorem toMvPowerSeries_val {a : σ → MvPowerSeries τ R} (ha : MvPowerSeries.HasSubst a) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: This name looks wrong.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 13]
```diff
@@ -157,3 +159,83 @@ lemma toAdicCompletionAlgEquiv_symm_apply
 end toAdicCompletion
 
 end MvPowerSeries
+
+section toMvPowerSeries
+
+variable {R S σ τ : Type*} [CommSemiring R] [CommSemiring S] {f : PowerSeries R} (i : σ) (r : R)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: I have the impression you never use `S`.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by WenrongZou** [comment]
Thanks!
bors r+
